US07503979B2
diphenyl (2,4,6-trimethylbenzoyl)phosphine oxide;
1-hydroxycyclohexyl phenyl ketone; bis (2,4,6-trimethylbenzoyl)-phenylphosphine oxide such as Irgacure 819 from BASF; 2,2′-dimethoxy-2-phenylacetophenone; 2-benzyl-2-(dimethylamino)-1-[4-(4-morpholinyl)phenyl]-1-butanone; 2-methyl-1-(4(methylthio)phenyl)-2-moropholino-1-propane; bis (2,6-dimethoxybenzoyl)-2,4,4-trimethyl pentyl phosphine oxide; and 1-hydroxy-cyclohexyl-phenyl-ketone (a blend of 25:75 of the latter two components may be employed).

reactant | 1-hydroxycyclohexyl phenyl ketone | C1(=CC=CC=C1)C(=O)C1(CCCCC1)O | C13H16O2
reactant | bis (2,4,6-trimethylbenzoyl)-phenylphosphine oxide | CC1=C(C(=O)P(C2=CC=CC=C2)(C(C2=C(C=C(C=C2C)C)C)=O)=O)C(=CC(=C1)C)C | C26H27O3P
reactant | 2,2′-dimethoxy-2-phenylacetophenone | COC(C(=O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C16H16O3
reactant | 2-benzyl-2-(dimethylamino)-1-[4-(4-morpholinyl)phenyl]-1-butanone | C(C1=CC=CC=C1)C(C(=O)C1=CC=C(C=C1)N1CCOCC1)(CC)N(C)C | C23H30N2O2
reactant | bis (2,6-dimethoxybenzoyl)-2,4,4-trimethyl pentyl phosphine oxide | COC1=C(C(=O)P(CC(CC(C)(C)C)C)(C(C2=C(C=CC=C2OC)OC)=O)=O)C(=CC=C1)OC | C26H35O7P
reactant | 1-hydroxy-cyclohexyl-phenyl-ketone | OC1(CCCCC1)C1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)C1(CCCCC1)O | C25H30O3
product | diphenyl (2,4,6-trimethylbenzoyl)phosphine oxide | C1(=CC=CC=C1)P(C(C1=C(C=C(C=C1C)C)C)=O)(C1=CC=CC=C1)=O | C22H21O2P
